US08067445B2
Step 4: (5-Trifluoromethanesulfonyloxy-2-trifluoromethyl-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 185, Step 4, using the following starting materials: (5-hydroxy-2-trifluoromethyl-phenyl)-acetic acid ethyl ester and N-phenyl-bis(trifluoromethanesulfonimide).

reactant | (5-hydroxy-2-trifluoromethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)O)C(F)(F)F)=O | C11H11F3O3
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
product | (5-Trifluoromethanesulfonyloxy-2-trifluoromethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)OS(=O)(=O)C(F)(F)F)C(F)(F)F)=O | C12H10F6O5S
